US04092988
To a solution of 11.62 grams (0.1 mole) of 2,3-dimethylpentan-3-ol in 75 milliliters of anhydrous tetrahydrofuran at 0° C was added one equivalent of methyllithium in diethyl ether, followed by 12.1 grams (0.10 mole) of allyl chloroformate in 25 milliliters of anhydrous tetrahydrofuran. During both additions the temperature was maintained at 0° C. After the last addition was complete the reaction mixture was stirred for about 18 hours and allowed to warm to ambient temperature. The reaction mixture was poured into water, and then extracted with ether. The ether solution was washed four times with water and dried over magnesium sulfate. Removal of solvent under reduced pressure yielded 18.27 grams (93.1% crude yield) of a yellow oil. Vacuum distillation gave 10.79 grams of 2,3-dimethylpent-3-yl allyl carbonate, b.p. 59°-60° C/0.15 mm.

reactant | 2,3-dimethylpentan-3-ol | 0.1 mole, 11.62 grams | CC(C)C(CC)(O)C | C7H16O
reactant | methyllithium | one equivalent | C[Li]
reactant | allyl chloroformate | 0.10 mole, 12.1 grams | ClC(=O)OCC=C | C4H5ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 75 milliliters | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 25 milliliters | O1CCCC1 | C4H8O
product | 2,3-dimethylpent-3-yl allyl carbonate | 10.79 grams | C(OC(C(C)C)(CC)C)(OCC=C)=O | C11H20O3
